US08202858B2
1-(4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperazin-1-yl)-ethanone
A solution of acetyl chloride (0.39 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of (3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride (Compound number 408) (2.67 mg, 0.005 mmol) in dichloromethane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=503.2

reactant | acetyl chloride | 0.005 mmol, 0.39 mg | C(C)(=O)Cl | C2H3ClO
reactant | (3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-[3-methyl-4-(3-piperazin-1-yl-propoxy)-phenyl]-methanone dihydrochloride | 0.005 mmol, 2.67 mg | Cl.Cl.CN1N=CC=2CN(C3=C(NC12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCNCC3)C
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenoxy]-propyl}-piperazin-1-yl)-ethanone | CC1=C(OCCCN2CCN(CC2)C(C)=O)C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2 | C28H34N6O3
